US06472348B1
Preparation of 3-[2-chloro-4-(1-ethoxycarbonylethoxy)-5-nitrophenyl]-1-methyl-6-trifluoromethyl-2(1H)-pyridone (Compound No. 1-280)
To 10 ml of DMF, 0.8 g (2.2 mmol) of 3-(2-chloro-4-hydroxy-5-nitrophenyl)-1-methyl-6-trifluoromethyl-2(1H)-pyridone, 0.42 g (3.0 mmol) of potassium carbonate and 0.56 g (3.3 mmol) of ethyl 2-bromopropionate were added, followed by heating and stirring at 60° C. for 2 hours. After completion of the reaction, the reaction solution was poured into water and extracted with ethyl acetate. The organic layer was washed with water and dried over anhydrous magnesium sulfate. The organic layer was distilled off under reduced pressure, and the obtained residue was purified by silica gel column chromatography to obtain 0.90 g (yield: 94%) of the desired product.

reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | 3-(2-chloro-4-hydroxy-5-nitrophenyl)-1-methyl-6-trifluoromethyl-2(1H)-pyridone | 2.2 mmol, 0.8 g | ClC1=C(C=C(C(=C1)O)[N+](=O)[O-])C=1C(N(C(=CC1)C(F)(F)F)C)=O | C13H8ClF3N2O4
reactant | potassium carbonate | 3.0 mmol, 0.42 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 2-bromopropionate | 3.3 mmol, 0.56 g | BrC(C(=O)OCC)C | C5H9BrO2
solvent | water | O | H2O
product | 3-[2-chloro-4-(1-ethoxycarbonylethoxy)-5-nitrophenyl]-1-methyl-6-trifluoromethyl-2(1H)-pyridone | 0.90 g, yield: 94% | ClC1=C(C=C(C(=C1)OC(C)C(=O)OCC)[N+](=O)[O-])C=1C(N(C(=CC1)C(F)(F)F)C)=O | C18H16ClF3N2O6
